US04069332
b. Ethyl 2-oximinooxamate
A solution of 8.98 gm. (0.39 mole) of sodium in 180 ml. of anhydrous ethanol is added to a solution of 26.8 gm. (0.386 mole) of hydroxylamine hydrochloride in 270 ml. of hot ethanol. The precipitate is removed by filtration. To the stirred filtrate is added 34.2 gm. (0.26 mole) of ethyl 2-thiooxamate. The yellow solution is allowed to stand overnight. The solution is evaporated to dryness in vacuo and the residue recrystallized from diethyl ether. There is obtained 21.2 g. (68%) of a yellow solid melting at 99°-101° C.

reactant | sodium | 0.39 mole | [Na] | Na
reactant | hydroxylamine hydrochloride | 0.386 mole | Cl.NO
reactant | ethyl 2-thiooxamate | 0.26 mole | CCOC(=O)C(=S)N | C4H7NO2S
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-oximinooxamate | CCOC(=O)/C(=N/O)/N | C4H8N2O3
